US05716624
(c) Synthesis of methyl 2-hydroxy-4-[3-hydroxy-3-methyl-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzoate
Following the basic procedure of Example 11(d), by reacting 2 g (7.8 mmol) of 1-ethynyl-1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)ethanol with 2.2 g (7.9 mmol) of methyl 2-hydroxy-4-iodobenzoate, there were obtained, after chromatography on a silica column eluted with a mixture of dichloromethane and heptane (50/50), 2.77 g (87%) of the expected ester, with a melting point of 110°-115° C.

reactant | 1-ethynyl-1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)ethanol | 7.8 mmol, 2 g | C(#C)C(C)(O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C18H24O
reactant | methyl 2-hydroxy-4-iodobenzoate | 7.9 mmol, 2.2 g | OC1=C(C(=O)OC)C=CC(=C1)I | C8H7IO3
product | methyl 2-hydroxy-4-[3-hydroxy-3-methyl-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzoate | OC1=C(C(=O)OC)C=CC(=C1)C#CC(C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)(C)O | C26H30O4
